US08455703B2
Synthesis of N-octylpyridinium tetracyanoborate as Illustrated in FIG. 14
Analogously to Example A, 83 g of potassium tetracyanoborate are added to 134 g of 1-octylpyridinium bromide, and the mixture is subjected to corresponding work-up, giving a clear, yellowish, viscous liquid.

reactant | potassium tetracyanoborate | 83 g | C(#N)[B-](C#N)(C#N)C#N.[K+]
reactant | 1-octylpyridinium bromide | 134 g | [Br-].C(CCCCCCC)[N+]1=CC=CC=C1
product | N-octylpyridinium tetracyanoborate | C(#N)[B-](C#N)(C#N)C#N.C(CCCCCCC)[N+]1=CC=CC=C1 | InChI=1S/C13H22N.C4BN4/c1-2-3-4-5-6-8-11-14-12-9-7-10-13-14;6-1-5(2-7,3-8)4-9/h7,9-10,12-13H,2-6,8,11H2,1H3;/q+1;-1
